US06617333B2
A well stirred suspension 4-dimethylaminocrotonic acid hydrochloride (5.0 g, 30 mmol) in cold (0° C.) THF (40 mL) and DMF (2 pipet drops) was treated with oxalyl chloride (3.15 mL, 36 mmol). The mixture was stirred at 20-25° C. for 3 h then cooled to 0° C. and held for 30 min. The solids were collected on Buchner funnel (under a blanket of nitrogen) and washed with cold (0° C.) THF (3×5 mL). The product was dried under vacuum (˜1 torr) at 40-50 2° C. for 3 h to give 4.0 g of 4-dimethylaminocrotonoyl chloride hydrochloride. This material is characterized as its methyl ester by treatment of the solid with methanol.

reactant | 4-dimethylaminocrotonic acid hydrochloride | 30 mmol, 5.0 g | Cl.CN(C/C=C/C(=O)O)C
reactant | oxalyl chloride | 36 mmol, 3.15 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
solvent | THF | 40 mL | C1CCOC1 | C4H8O
solvent | DMF | CN(C)C=O | C3H7NO
product | 4-dimethylaminocrotonoyl chloride hydrochloride | 4.0 g | Cl.CN(C/C=C/C(=O)Cl)C | InChI=1S/C6H10ClNO.ClH/c1-8(2)5-3-4-6(7)9;/h3-4H,5H2,1-2H3;1H/b4-3+;
